US07855194B2
Step 2: (5-Ethyl-pyrimidin-2-yl)-piperidin-4-yl-amine (Intermediate C1)
A solution of 4-(5-ethyl-pyrimidin-2-ylamino)-piperidine-1-carboxylic acid tert-butyl ester (4.53 g, 16.3 mmol) in 48% HBr in water (45 mL) and acetic acid (45 mL) was heated to 100° C. After 4 h the solvents were removed under reduced pressure and the crude reaction product extracted from a solution of 1 M NaOH (200 mL) with ethyl acetate (3×100 mL). The combined organic phases were dried over MgSO4 and concentrated by evaporation under reduced pressure to yield 3.1 g (92%) of the title compound which was directly used in the consecutive step. MS (ISP): 207.1 [M+H]+.

reactant | 4-(5-ethyl-pyrimidin-2-ylamino)-piperidine-1-carboxylic acid tert-butyl ester | 16.3 mmol, 4.53 g | C(C)(C)(C)OC(=O)N1CCC(CC1)NC1=NC=C(C=N1)CC | C16H26N4O2
reactant | acetic acid | 45 mL | C(C)(=O)O | C2H4O2
solvent | HBr | Br | BrH
solvent | water | 45 mL | O | H2O
product | (5-Ethyl-pyrimidin-2-yl)-piperidin-4-yl-amine | 3.1 g, 92% | C(C)C=1C=NC(=NC1)NC1CCNCC1 | C11H18N4
